US04226799
74 parts of 75 percent pure sodium salt of α-formyl-β-formylaminopropionitrile are refluxed for 1 hour with 58.3 parts of aniline hydrochloride in 400 parts by volume of methanol, the reaction mixture is filtered, and the filtrate is concentrated to half its volume. 59.6 parts of α-anilinomethylene-β-formylaminopropionitrile are obtained, followed by a further 6.3 parts after concentrating the mother liquor; this corresponds in total to 87.4% of theory, based on the Na salt.

reactant | sodium | [Na] | Na
reactant | α-formyl-β-formylaminopropionitrile | C(=O)C(C#N)CNC=O | C5H6N2O2
reactant | aniline hydrochloride | Cl.NC1=CC=CC=C1
solvent | methanol | CO | CH4O
product | α-anilinomethylene-β-formylaminopropionitrile | N(C1=CC=CC=C1)C=C(C#N)CNC=O | C11H11N3O
